US05939451
1.50 g (0.00483 mol) of sulfadimethoxine were suspended in 20 ml of ethanol, treated with 16 ml (0.193 mol) of propylamine and stirred in an autoclave at 140° C. for 65 hours. The mixture was cooled and, after 24 hours., the crystals which separated were filtered off under suction. There was obtained 0.75 g (50%) of 4-amino-N-(2,6-bis-propylamino-pyrimidin-4-yl)-benzenesulfonamide as pale beige crystals; m.p. 211-215° C.

reactant | sulfadimethoxine | 0.00483 mol, 1.50 g | COC=1C=C(N=C(N1)OC)NS(=O)(=O)C=2C=CC(=CC2)N | C12H14N4O4S
reactant | propylamine | 0.193 mol, 16 ml | C(CC)N | C3H9N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-amino-N-(2,6-bis-propylamino-pyrimidin-4-yl)-benzenesulfonamide | 0.75 g, 50% | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)NCCC)NCCC | C16H24N6O2S
